### PR TITLE
wip

### PR DESCRIPTION
**Pull request by hoheinzollern**
##### Things done/to do

- [ ] added corresponding entries in `CHANGELOG_UNRELEASED.md`
  (do not edit former entries, only append new ones, be careful:
   merge and rebase have a tendency to mess up `CHANGELOG_UNRELEASED.md`)
- [ ] added corresponding documentation in the headers

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and put a milestone if possible.

### CODE REVIEW

File: theories/hoelder.v [hunk 1]
```diff
@@ -560,4 +560,43 @@ apply: minkowski => //.
 apply: measurableT_comp => //.
 Qed.
 
+Lemma le_ess_sup (f g : T -> R) : measurable_fun setT f -> measurable_fun setT g -> (forall x, f x <= g x)%R -> ess_sup mu f <= ess_sup mu g.
```
Comment (affeldt-aist) [inline theories/hoelder.v]: mark this as a TODO (and the other lemmas below about ess_sup)

File: theories/hoelder.v [hunk 2]
```diff
@@ -560,4 +560,43 @@ apply: minkowski => //.
...
+
+Lemma ess_supD (f g : T -> R) : ess_sup mu (normr \o f \+ (normr \o g)) <= ess_sup mu (normr \o f) + ess_sup mu (normr \o g).
+Proof.
+(* from: https://people.math.sc.edu/schep/Banach.pdf theorem 3 *)
+have h1 := fun x => @ler_normD _ _ (f x) (g x).
+suffices: exists x, {ae mu, forall t, x <= ((normr \o f) t)%:E}.
+  admit.
+Admitted.
+
+Lemma minkowskie (f g : {mfun T >-> R}) (p : \bar R) :
```
Comment (affeldt-aist) [inline theories/hoelder.v]: remove duplicate in lspace.v

**Review by affeldt-aist — APPROVED** [review]
